US08044052B2
Synthesis of 4-(3-(5-(pyrrolidin-1-yl)pyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide
To a solution of 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(pyrrolidin-1-yl)pyridine (0.118 g, 0.352 mmol) in DMSO (2 mL) was added phenyl pyridazin-3-ylcarbamate (0.076 g, 0.352 mmol) followed by triethylamine (0.048 mL, 0.352 mmol). The resulting mixture was stirred at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give the crude compound. The residue was purified by silica gel column chromatography (28% acetone/hexane) to give the title compound (0.125 g, 78% yield). 1H NMR (500 MHz, CDCl3): δ 8.78 (s, 1H), 8.39 (s, 1H), 7.59 (d, J=2.5 Hz, 1H), 7.45 (d, J=4.6 Hz, 1H), 7.27 (m, 2H), 6.95 (m, 1H), 6.92 (m, 2H), 6.84 (m, 2H), 6.38 (s, 1H), 3.69 (m, 2H), 3.58 (m, 2H), 3.27 (m, 4H), 2.59 (m, 2H), 2.45 (m, 2H), 2.03 (m, 4H); 13C NMR (125 MHz, CDCl3): δ 156.56, 153.78, 147.15, 141.50, 138.54, 137.14, 130.50, 129.31, 128.31, 125.21, 123.64, 122.70, 119.41, 117.31, 113.03, 47.85, 45.70, 44.70, 35.76, 29.12, 25.39; m/z (457.1, MH+); HPLC: 97.3%.

reactant | 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(pyrrolidin-1-yl)pyridine | 0.352 mmol, 0.118 g | N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)N2CCCC2)C=CC1 | C21H25N3O
reactant | phenyl pyridazin-3-ylcarbamate | 0.352 mmol, 0.076 g | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | triethylamine | 0.352 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(5-(pyrrolidin-1-yl)pyridin-2-yloxy)benzylidene)-N-(pyridazin-3-yl)piperidine-1-carboxamide | 0.125 g, 78% yield | N1(CCCC1)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1 | C26H28N6O2
